US07173048B2
To a solution of 0.11 g (0.21 mmol) of 1-benzyl-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-1H-indole-2-carbaldehyde in 3 mL of THF were added 0.14 mL (0.42 mmol) of methyl magnesium bromide dropwise at 0° C. under an argon stream. The mixture was stirred at RT for 1.5 h and poured into a mixture of a saturated aqueous solution of NH4Cl and Et2O. The phases were separated and the aqueous one was extracted with Et2O. The combined organic phases were dried over Na2SO4 and evaporated to yield 0.118 g (quantitative) of crude 1-[1-benzyl-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-1H-indol-2-yl]-ethanol, which was dissolved in 2 mL of THF and treated with 0.43 mL (0.43 mmol) of a 1M TBAF-solution in THF, stirred for one hour and then poured into a mixture of a saturated aqueous solution of NH4Cl and Et2O. The phases were separated and the aqueous one was extracted with Et2O. The combined organic phases were dried over Na2SO4 and evaporated to yield 0.066 g (74%) of 2-[1-benzyl-2-(1-hydroxy-ethyl)-1H-indol-5-yl]-1,1,1,3,3,3-hexafluoro-propan-2-ol, yellow solid, MS: 418 (M−H)−.

reactant | 1-benzyl-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-1H-indole-2-carbaldehyde | 0.21 mmol, 0.11 g | C(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC)C=O | C25H27F6NO2Si
reactant | methyl magnesium bromide | 0.42 mmol, 0.14 mL | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
reactant | Et2O | CCOCC | C4H10O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-[1-benzyl-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-1H-indol-2-yl]-ethanol | 0.118 g | C(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC)C(C)O | C26H31F6NO2Si
